US07132546B2
Into 5 mL of a tetrahydrofuran solution comprising 420 mg of 4-phenoxyaniline and 250 mg of triethylamine, 5 mL of a tetrahydrofuran solution comprising 500 mg of 2-chloro-5-nitrobenzoylchloride was dropwise added under cooling with ice. After stirring for about 30 minutes, water was added thereto, and precipitated crystals were collected by filtration. The collected crystals were washed with water and then dried to obtain 730 mg of N-(4-phenoxyphenyl)-2-chloro-5-nitrobenzamide (Compound No. 27) having a melting point of 128° C.

reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
reactant | 4-phenoxyaniline | 420 mg | O(C1=CC=CC=C1)C1=CC=C(N)C=C1 | C12H11NO
reactant | triethylamine | 250 mg | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
reactant | 2-chloro-5-nitrobenzoylchloride | 500 mg | ClC1=C(C(=O)Cl)C=C(C=C1)[N+](=O)[O-] | C7H3Cl2NO3
solvent | water | O | H2O
product | N-(4-phenoxyphenyl)-2-chloro-5-nitrobenzamide | 730 mg | O(C1=CC=CC=C1)C1=CC=C(C=C1)NC(C1=C(C=CC(=C1)[N+](=O)[O-])Cl)=O | C19H13ClN2O4
